US05506228
The reaction of 2.23 g of 1-chloro-1-[(3-chlorophenyl) hydrazono]-2-propanone with 1.72 g of 4-chlorothiophenol as Example 11 yielded 3.14 g of 1-[(4-chlorophenyl)thio]-1-[(3-chlorophenyl)hydrazono]-2-propanone, mp 128°-131° C.

reactant | 1-chloro-1-[(3-chlorophenyl) hydrazono]-2-propanone | 2.23 g | ClC(C(C)=O)=NNC1=CC(=CC=C1)Cl | C9H8Cl2N2O
reactant | 4-chlorothiophenol | 1.72 g | ClC1=CC=C(C=C1)S | C6H5ClS
product | 1-[(4-chlorophenyl)thio]-1-[(3-chlorophenyl)hydrazono]-2-propanone | 3.14 g | ClC1=CC=C(C=C1)SC(C(C)=O)=NNC1=CC(=CC=C1)Cl | C15H12Cl2N2OS
